US07220744B2
5-Ethanesulfonyl-2-isopropoxy-benzoic acid
Prepared in analogy to Example A14(c) from 5-ethanesulfonyl-2-fluoro-benzoic acid (Example A17(b)) and isopropanol. MS (m/e): 271.1 ([M−H]−, 100%)

reactant | 5-ethanesulfonyl-2-fluoro-benzoic acid | C(C)S(=O)(=O)C=1C=CC(=C(C(=O)O)C1)F | C9H9FO4S
reactant | isopropanol | C(C)(C)O | C3H8O
product | 5-Ethanesulfonyl-2-isopropoxy-benzoic acid | C(C)S(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OC(C)C | C12H16O5S
